US08471005B2
2-Dimethylamino-N-{3-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-acetamide
N-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-benzene-1,3-diamine (50.0 mg, 0.150 mmol; N,N-Dimethylglycine (18.6 mg, 0.180 mmol) N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (34.6 mg, 0.180 mmol; and N,N-Dimethylformamide (0.999 mL, 12.9 mmol) were combined in a vial and stirred at rt for 1 hour. LCMS showed partial conversion to product. Stirred an additional 2 hours. Added 5 extra eq of acid, DIEA, HOBT, and EDCI and stirred for 18 h. Reaction went to completion. Diluted reaction mixture with sat'd NaHCO3 and filtered off resulting ppt. Ppt was purified by ISCO silica gel chromatography (0-100% EtOAc in hexanes). Conc down to recover title compound as a yellow solid (11 mg, 13%). LCMS=418.0 (M+H), HPLC purity=93%, rt=2.218 min. 1H NMR (400 MHz, CDCl3, δ, ppm): 9.03 (s, 1H), 8.72 (s, 2H), 8.52 (dd, J=2.4 Hz, 8.7 Hz, 1H), 7.85 (s, 1H), 7.42 (d, J=7.3 Hz, 1H), 7.32-7.28 (m, 2H), 6.95 (d, J=4.6 Hz, 1H), 6.90-6.87 (m, 2H), 6.85 (d, J=4.5 Hz, 1H), 4.00 (s, 3H), 3.09 (s, 2H), 2.37 (s, 6H).

reactant | N-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-benzene-1,3-diamine | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N | C18H16N6O
reactant | N,N-Dimethylglycine | 0.180 mmol, 18.6 mg | CN(CC(=O)O)C | C4H9NO2
reactant | N,N-Dimethylformamide | 12.9 mmol, 0.999 mL | CN(C=O)C | C3H7NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-Dimethylamino-N-{3-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-acetamide | CN(CC(=O)NC1=CC(=CC=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC)C | C22H23N7O2
